US06989467B2
Synthesis of 3-hydroxycinnamic acid (by microwave irradiation method):
A mixture of 3-hydroxybenzaldehyde (1 g, 0.008 mol), malonic acid (1.69 g, 0.016 mol), piperidine (1 to 3 mL) and acetic acid (10–20 mL) were taken in a 100 ml Erlenmeyer flask and irradiated under microwave for 2–8 minutes in parts. The cooled mixture was poured into ice cold water and extracted with ethyl acetate. The organic layer was washed with dil HCl., saturated sodium chloride and then organic layer dried over sodium sulphate. The solvent was evaporated under reduced pressure to obtain crude solid which was recrystallised with methanol, provided a white solid in 76% yield; 193° C. (lit mp 194° C.); 1H NMR (CDCl3) δ 6.73(1H, s, H-3 and H-5), 6.62 (1H, dd, H-7), 5.61(1H, d, J=10.9 Hz trans, H-8), 5.16(1H, d, J=17.6, cis-H-8).; 13C NMR (CDCl3) δ 147.4 (C-2 and C-6), 137.2 (C-1), 135.1 (C-7), 129.5 (C-4), 112.2 (C-8), 103.3 (C-3 and C-5), 56.0 (2 OMe). This experiment clearly indicates that utilization of microwave technique as well as presence of hydroxy at 4-position of phenylaldehydes is important for the preparation of 4-vinylphenols (Example I, II and III).

reactant | 3-hydroxybenzaldehyde | 0.008 mol, 1 g | OC=1C=C(C=O)C=CC1 | C7H6O2
reactant | malonic acid | 0.016 mol, 1.69 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | piperidine | 1 to 3 mL | N1CCCCC1 | C5H11N
solvent | acetic acid | 10–20 mL | C(C)(=O)O | C2H4O2
product | 3-hydroxycinnamic acid | 76% yield | OC=1C=C(C=CC(=O)O)C=CC1 | C9H8O3
